US05922771
2,2,2-Trifluoro-N-[2-(2-benzyl-5-methoxy-1H-inden-3-yl)ethyl]acetamide
Starting with 2-(2-benzyl-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride and trifluoroacetic anhydride, the title compound was synthesized in otherwise the same manner as Example 8 (yield 95%).

reactant | 2-(2-benzyl-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride | Cl.C(C1=CC=CC=C1)C=1CC2=CC=C(C=C2C1CCN)OC
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-[2-(2-benzyl-5-methoxy-1H-inden-3-yl)ethyl]acetamide | FC(C(=O)NCCC1=C(CC2=CC=C(C=C12)OC)CC1=CC=CC=C1)(F)F | C21H20F3NO2
